US07595327B2
According to the procedure of Example 17, Step 3, 228.2 mg of tert-butyl cis-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]pyrrolidine-3-carboxylate hydrochloride was reacted with 51 mg of propargyl bromide to provide 126 mg of tert-butyl cis-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]-1-prop-2-yn-1-ylpyrrolidine -3-carboxylate in 55% yield. MS: 536.3(M+H)+

reactant | tert-butyl cis-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]pyrrolidine-3-carboxylate hydrochloride | 228.2 mg | Cl.CC1=NC2=CC=CC=C2C(=C1)COC1=CC=C(C=C1)S(=O)(=O)N[C@@H]1[C@@H](CNC1)C(=O)OC(C)(C)C
reactant | propargyl bromide | 51 mg | C(C#C)Br | C3H3Br
product | tert-butyl cis-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]-1-prop-2-yn-1-ylpyrrolidine -3-carboxylate | 126 mg, 55% yield | CC1=NC2=CC=CC=C2C(=C1)COC1=CC=C(C=C1)S(=O)(=O)N[C@@H]1[C@@H](CN(C1)CC#C)C(=O)OC(C)(C)C | C29H33N3O5S
